US06677383B1
(E)-1-(4-Hydroxyphenyl)-3-(3,4,5-trimethoxyphenyl)prop-1-en-3-one (DMU-116)
To a stirred solution of 4-hydroxybenzaldehyde (1.0 g, 8.19 mmol) and 3,4,5-trimethoxyacetophenone (1.72 g, 8.19 mmol) in methanol (30 ml) was added a 50% w/v solution of aqueous NaOH (1 ml). The mixture was stirred for 24 hours at room temperature, acidified with 2N HCl and extracted with ethyl acetate (3×30 ml). The combined organic phase was dried over anhydrous MgSO4, filtered, and the solvent evaporated in vacuo. The product was purified by column chromatography using hexane/ethyl acetate (7:3) as eluent to afford the title compound as a pale yellow solid (0.125 g, 5%). 1H-NMR (CDCl3) δ 7.8 (1H, d), 7.6 (2H, m), 7.4 (1H, s), 7.25 (2H, m), 6.9 (2H, d), 5.6 (1H, bs) 3.95 (9H, s). Mass Spectrum (FAB) m/e 315 (M+1).

reactant | 4-hydroxybenzaldehyde | 8.19 mmol, 1.0 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | 3,4,5-trimethoxyacetophenone | 8.19 mmol, 1.72 g | CC(=O)C1=CC(=C(C(=C1)OC)OC)OC | C11H14O4
reactant | NaOH | 1 ml | [OH-].[Na+]
reactant | HCl | 2N | Cl | ClH
solvent | methanol | 30 ml | CO | CH4O
product | (E)-1-(4-Hydroxyphenyl)-3-(3,4,5-trimethoxyphenyl)prop-1-en-3-one | 0.125 g, 5% | OC1=CC=C(C=C1)\C=C\C(=O)C1=CC(=C(C(=C1)OC)OC)OC | C18H18O5
